US08242124B2
To a solution of 1-(1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazol-3-yl)ethanol (100 mg, 0.386 mmol) in THF (8 mL) was added ethylmagnesium bromide (1.736 mL, 1.736 mmol) at −40° C. After stirring at −5° C. for 1 h, pyridine (0.016 mL, 0.193 mmol) was added quickly. The mixture was cooled to −40° C. and ethyl 2-chloro-2-oxoacetate (0.176 mL, 1.543 mmol) was added. After stirring at −40° C. for 30 min, the reaction was quenched by adding i-PrOH and water. The mixture was extracted with EtOAc (2×50 mL). The organic layers were combined, washed with brine (30 mL), dried over MgSO4 and concentrated under vacuum to give crude product ethyl 2-(7-(3-(1-hydroxyethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate (100 mg, 0.278 mmol, 72.2% yield). LCMS: m/z 360.1 (M+H)+, 1.53 min (method 8).

reactant | 1-(1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazol-3-yl)ethanol | 0.386 mmol, 100 mg | COC1=C2C(=C(N=C1)N1N=C(N=C1)C(C)O)NC=C2 | C12H13N5O2
reactant | ethylmagnesium bromide | 1.736 mmol, 1.736 mL | C(C)[Mg]Br
reactant | pyridine | 0.193 mmol, 0.016 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl 2-chloro-2-oxoacetate | 1.543 mmol, 0.176 mL | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | ethyl 2-(7-(3-(1-hydroxyethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate | 0.278 mmol, 100 mg, 72.2% yield | OC(C)C1=NN(C=N1)C=1N=CC(=C2C1NC=C2C(C(=O)OCC)=O)OC | C16H17N5O5
